US07265120B2
A mixture of 6-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone (150 mg) and N-(2-aminoethyl)acetamide (0.112 ml) in 1,2-dimethyl-2-imidazolidinone (0.3 ml) was heated at 120-125° C. for 50 hours. After addition of water (3 ml), an aqueous layer was removed by decantation to give a residue. The residue was dissolved in CHCl3, dried over MgSO4, concentrated under reduced pressure and purified by column chromatography on silica gel eluting with a mixture of MeOH and EtOAc (3:97 v/v) to give a solid. The solid was suspended in acetone to give N-(2-{[3-amino-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-5-phenyl-2-pyrazinyl]amino}ethyl)acetamide (28 mg).

reactant | 6-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone | 150 mg | NC=1N=C(C(=NC1Br)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C17H16BrN5O
reactant | N-(2-aminoethyl)acetamide | 0.112 ml | NCCNC(C)=O | C4H10N2O
reactant | water | 3 ml | O | H2O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | acetone | CC(=O)C | C3H6O
product | N-(2-{[3-amino-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-5-phenyl-2-pyrazinyl]amino}ethyl)acetamide | 28 mg | NC=1C(=NC(=C(N1)C1=CC=CC=C1)C1=NN(C(C=C1)=O)C(C)C)NCCNC(C)=O | C21H25N7O2
